* Schematics Netlist *



R_R1         $N_0002 $N_0001  8  
R_R4         $N_0004 $N_0003  20  
R_R5         $N_0003 0  8  
R_R10         $N_0006 $N_0005  8  
R_R11         $N_0005 Positive  16  
R_R3         $N_0007 0  4  
R_R2         $N_0001 $N_0007  16  
E_E1         $N_0001 $N_0004 $N_0007 0 0.5
R_R14         $N_0008 0  8  
V_V3         $N_0006 0 10V
V_V1         $N_0002 0 10V
E_E3         $N_0005 $N_0009 Positive 0 0.5
R_R12         Positive 0  4  
R_R13         $N_0009 $N_0008  20  
