* Schematics Netlist *



I_I1         $N_0001 0 DC 0A  
R_R1         $N_0003 $N_0002  5  
V_V1         $N_0003 0 10V
R_R2         $N_0002 0  5  
R_R3         $N_0002 $N_0001  10  
R_R5         $N_0005 $N_0004  5  
V_V2         $N_0005 0 10V
V_V3         $N_0006 0 0V
R_R6         $N_0004 0  5  
R_R7         $N_0004 $N_0006  10  
