* Schematics Netlist *



R_R1         $N_0002 $N_0001  5  
R_R2         $N_0001 0  5  
V_E         $N_0002 0 10V
R_R3         $N_0001 $N_0003  10 
R_RL         $N_0003 0  10  
 
