* Schematics Netlist *



V_E         $N_0001 0 10V
R_R1         $N_0001 $N_0002  5  
R_R2         $N_0002 0  5  
R_R3         $N_0002 $N_0003  10  
R_RL         $N_0003 0  {RVAR}  
