* Schematics Netlist *



R_R11         $N_0002 $N_0001  1k  
R_R12         $N_0002 0  4.7k  
V_E1         $N_0003 0 10V
R_R1         $N_0004 $N_0003  1k  
V_E2         $N_0005 0 5V
R_RL         0 $N_0006  1k  
R_R3         $N_0004 0  4.7k  
R_R7         $N_0008 $N_0007  1k  
R_R8         $N_0008 0  4.7k  
V_E3         $N_0007 0 10V
V_E4         $N_0009 0 5V
V_E5         $N_0001 0 10V
V_E6         $N_0010 0 5V
R_R13         $N_0011 $N_0010  3.3k  
R_R2         $N_0006 $N_0005  3.3k  
R_R9         $N_0012 $N_0009  3.3k  
I_I1         $N_0012 0 DC 0A  
V_V3         $N_0011 0 0V
R_R15         $N_0013 0  1k  
R_R4         $N_0006 $N_0004  1k  
R_R6         $N_0012 $N_0008  1k  
R_R10         $N_0011 $N_0002  1k  
V_E_Th         $N_0014 0 7.090v
R_R_Th         $N_0014 $N_0013  1.175k  
