* Schematics Netlist *



V_E1         $N_0001 0 10V
R_R1         $N_0002 $N_0001  1k  
V_E2         $N_0003 0 5V
R_R2         $N_0004 $N_0003  3.3k  
R_R4         $N_0004 $N_0002  10k  
V_V5         $N_0002 0 10V
R_RL         0 $N_0004  {RVAR}  
