* Schematics Netlist *



R_R3         X 0  8  
H_H1         $N_0001 Voltmeter+ VH_H1 0.5
VH_H1        A B 0V
V_V1         A 0 10V
E_E2         $N_0002 0 Voltmeter+ X 1
R_R7         0 $N_0002  1k  
R_R5         $N_0003 0  4  
G_G2         $N_0004 $N_0001 X 0 0.5
R_R1         B $N_0001  8  
R_R4         $N_0004 $N_0003  16  
R_R2         Voltmeter+ X  20  
