* Schematics Netlist *



R_R2         0 Voltmeter-  47  
E_E1         $N_0001 0 Voltmeter+ Voltmeter- 1
R_R4         0 $N_0001  1k  
R_R1         Voltmeter+ Voltmeter-  100  
R_R3         Voltmeter- $N_0002  100  
V_E         Voltmeter+ 0 3v
v_V2         $N_0002 0 0
