* Schematics Netlist *



V_V1         $N_0001 0 10V
R_R1         $N_0001 $N_0002  8  
R_R4         $N_0002 Positive  16  
R_R8         $N_0003 0  8  
R_R13         $N_0005 $N_0004  8  
V_V2         $N_0005 0 10V
R_R14         $N_0004 a  16  
R_R9         $N_0006 0  8  
R_R19         $N_0007 X  8  
V_V3         $N_0007 0 10V
R_R17         $N_0008 0  4  
R_R15         $N_0009 0  8  
R_R31         $N_0011 $N_0010  8  
V_V5         $N_0011 0 10V
R_R27         $N_0012 0  8  
R_R2         $N_0013 $N_0003  20  
R_R10         $N_0014 $N_0006  20  
R_R12         a 0  4  
R_R16         $N_0015 $N_0009  20  
R_R20         Z $N_0008  16  
R_R28         $N_0016 $N_0012  20  
R_R32         $N_0010 TESLA  16  
R_R30         SPACEX 0  4  
F_F1         $N_0016 $N_0010 VF_F1 0.5
VF_F1        TESLA SPACEX 0V
G_G1         $N_0014 $N_0004 a 0 0.5
H_H2         X $N_0015 VH_H2 0.5
VH_H2        X Z 0V
E_E1         $N_0002 $N_0013 Positive 0 0.5
R_R6         Positive 0  4  
