* Schematics Netlist *



R_R1         POS NEG  1  
I_I1         0 POS DC 1A  
R_R2         POS 0  4  
R_R3         $N_0001 0  1  
R_R4         CP 0  4  
R_R7         NEG $N_0002  2  
H_H1         $N_0001 POS VH_H1 4
VH_H1        NEG CP 0V
G_G1         NEG $N_0001 POS NEG 2
I_I2         $N_0002 0 DC 0A  
R_R8         POS1 NEG1  1  
I_I3         0 POS1 DC 1A  
R_R9         POS1 0  4  
R_R10         $N_0003 0  1  
R_R11         CP1 0  4  
R_R12         NEG1 $N_0004  2  
H_H2         $N_0003 POS1 VH_H2 4
VH_H2        NEG1 CP1 0V
G_G2         NEG1 $N_0003 POS1 NEG1 2
V_V1         $N_0004 0 0V
